US07638118B2
But-2-enedioic acid bis-[2-(2-dimethylamino-ethoxy)-ethyl]ester
The solution of 2-[2-(dimethylamino)-ethoxy]ethanol (6.65 g, 50 mmol, 2.5 equiv.) and 4-dimethylaminopyridine (11 mg) in toluene (20 ml) is cooled to −20° C. Separate solutions of fumaryl chloride (2.3 ml, 20 mmol, 1.0 equiv.) and 1,1,3,3-tetramethylguanidine (5.0 ml, 40 mmol, 2.0 equiv.) in toluene (each 25 ml) are added dropwise simultaneously via syringe pump over 80 min. A dark suspension is formed. After complete addition, the cooling bath is removed and stirring continued at 23° C. for 40 min. Active charcoal (1.0 g) is added and the mixture is filtered over a short pad of basic Al2O3, which is further rinsed with toluene/EtOAc (360 ml). The solution is concentrated and dried in vacuo (0.05 mbar) to yield the product as a yellow oil (2.79 g, 40%).

reactant | 2-[2-(dimethylamino)-ethoxy]ethanol | 50 mmol, 6.65 g, 2.5 equiv. | CN(CCOCCO)C | C6H15NO2
reactant | fumaryl chloride | 20 mmol, 2.3 ml, 1.0 equiv. | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
reactant | 1,1,3,3-tetramethylguanidine | 40 mmol, 5.0 ml, 2.0 equiv. | CN(C(=N)N(C)C)C | C5H13N3
catalyst | 4-dimethylaminopyridine | 11 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | But-2-enedioic acid bis-[2-(2-dimethylamino-ethoxy)-ethyl]ester | 2.79 g, 40% | CN(CCOCCOC(C=CC(=O)OCCOCCN(C)C)=O)C | C16H30N2O6
